US05294618
trans-3-Cyclopropylmethyl-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline
To a solution of 0.200 g (1.07 mmol) of trans-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline in anhydrous dichloromethane (20 ml) was added 0.200 g (1.48 mmol) of (bromomethyl)cyclopropane and the reaction mixture was left to stand for 24 h. The solvent was removed in vacuo and the residue was chromatographed on flash silica, eluting with 10% methanol/dichloromethane to give 0.160 g (62%) of the title product as an oil. The hydrochloride salt was made using etheral hydrogen chloride. Upon evaporation of the solvent, washing with ether and recrystallisation from ethanol/ethyl acetate/petroleum ether, the title product hydrochloride was obtained as a white sold, m.p. 255°-257° C. NMR δ(D2O) 0.43 (2H, m), 0.78 (2H, m), 1.17 (1H, m), 1.58 (1H, m), 1.80-1.94 (2H, m), 2.67-2.77 (2H, m), 2.90-2.97 (3H, m), 3.09 (2H, d, J=7.4 Hz), 3.20 (1H, t of d, J=13.1 and 3.0 Hz), 3.74 (1H, m), 3.87 (1H, m), 7.22-7.31 (3H, m), 7.36-7.38 (1H, m). m/z (CI+, NH3) 242 (M+H)+, 182, 165.

reactant | trans-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline | 1.07 mmol, 0.200 g | C1CNC[C@H]2CCC3=C([C@H]12)C=CC=C3 | C13H17N
reactant | (bromomethyl)cyclopropane | 1.48 mmol, 0.200 g | BrCC1CC1 | C4H7Br
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | trans-3-Cyclopropylmethyl-1,2,3,4,4a,5,6,10b-octahydrobenz[f]isoquinoline | 0.160 g, 62% | C1(CC1)CN1C[C@H]2CCC3=C([C@@H]2CC1)C=CC=C3 | C17H23N
